US04161603
1,3-Di-(3'-methoxycarbonyl-n-propyl)-6-methyluracil
40.4 g (0.2 mol) of the dipotassium salt of 6-methyluracil and 57.4 g (0.42 mol) of methyl 4-chlorobutyrate are stirred in 350 ml of dimethylformamide for 10 hours at 125° C. The mixture is filtered and the clear solution is concentrated to dryness, 48.2 g of the desired crude product being obtained as a yellowish semi-solid mass (73.8% of theory).

reactant | 6-methyluracil | CC1=CC(NC(N1)=O)=O | C5H6N2O2
reactant | methyl 4-chlorobutyrate | 0.42 mol, 57.4 g | ClCCCC(=O)OC | C5H9ClO2
solvent | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
product | 1,3-Di-(3'-methoxycarbonyl-n-propyl)-6-methyluracil | COC(=O)CCCN1C(=O)N(C(=O)C=C1C)CCCC(=O)OC | C15H22N2O6
